US06531491B1
6-(4-Hydroxy-3-methoxyphenyl)-3-[E-2-(4-glycylamino-phenyl)-ethenyl]-1H-indazole
3-(4-aminostyryl)-6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole (90 mg, 0.224 mmol) was dissolved in dichloromethane (2 mL) and was treated with Boc-glycine (196 mg, 1.12 mmol, 5 equiv), DMAP (82 mg, 3 equiv) and HATU (426 mg, 5 equiv). The mixture was allowed to stir for 30 min. The mixture was partitioned between ethyl acetate and water. The organic material was concentrated, taken up in methanol (5 mL) and was treated with potassium carbonate (100 mg). The mixture was heated to 50° C. for 3 d. The resulting mix was again partitioned between ethyl acetate and water. The organic material was concentrated, and purified by silica (109 mg, 66%): Rf sm 0.32, p 0.46 (ethyl acetate-hexane 6:4); 1H NMR (300 MHz, CDCl3) δ 8.18 (bs, 1H), 8.03 (d, 1H, J=8.1 Hz), 7.56 (m, 5H), 7.40 (m, 3H), 7.20 (m, 3H), 5.29 (s, 2H), 5.20 (bs, 1H), 3.98 (s, 3H), 3.96 (d, 2H), 3.54 (s, 3H), 1.48 (s, 9H).

reactant | 3-(4-aminostyryl)-6-(3-methoxy-4-methoxymethoxy-phenyl)-1H-indazole | 0.224 mmol, 90 mg | NC1=CC=C(C=CC2=NNC3=CC(=CC=C23)C2=CC(=C(C=C2)OCOC)OC)C=C1 | C24H23N3O3
reactant | Boc-glycine | 1.12 mmol, 196 mg, 5 equiv | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | HATU | 426 mg, 5 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | DMAP | 82 mg, 3 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-(4-Hydroxy-3-methoxyphenyl)-3-[E-2-(4-glycylamino-phenyl)-ethenyl]-1H-indazole | OC1=C(C=C(C=C1)C1=CC=C2C(=NNC2=C1)\C=C\C1=CC=C(C=C1)NC(CN)=O)OC | C24H22N4O3
